US07452893B2
To a solution of (2-{[4-(Benzyloxy)-2-fluorocyclohexyl]oxy}-1-phenylethoxy)(tert-butyl)dimethylsilane (11.3 g, 24.7 mmol) in ethyl acetate (200 mL) was added 10% Pd/C (1.0 g) at room temperature. The reaction mixture was stirred under balloon pressure hydrogen for 4 h, filtered and concentrated. Purification by silica gel chromatography (hexane: ethyl acetate 60:40) gave 4-(2-{[tert-Butyl(dimethyl)silyl]oxy}-2-phenylethoxy)-3-fluorocyclohexanol (8.46 g, 93% yield) as a clear oil.

reactant | (2-{[4-(Benzyloxy)-2-fluorocyclohexyl]oxy}-1-phenylethoxy)(tert-butyl)dimethylsilane | 24.7 mmol, 11.3 g | C(C1=CC=CC=C1)OC1CC(C(CC1)OCC(O[Si](C)(C)C(C)(C)C)C1=CC=CC=C1)F | C27H39FO3Si
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | 4-(2-{[tert-Butyl(dimethyl)silyl]oxy}-2-phenylethoxy)-3-fluorocyclohexanol | 8.46 g, 93% yield | [Si](C)(C)(C(C)(C)C)OC(COC1C(CC(CC1)O)F)C1=CC=CC=C1 | C20H33FO3Si
